US08119805B2
Stage (ii): 2-(Pyridin-4-yl)-2,7-diazaspiro[4.4]nonane dihydrochloride
tert-Butyl 7-(pyridin-4-yl)-2,7-diazaspiro[4.4]nonane-2-carboxylate (2.208 mmol, 1 eq) was heated at the boiling temperature with hydrogen chloride in methanol (1.25 M, 6 eq) for 30 min. The methanol was concentrated in vacuo, the residue was dissolved in analytical grade ethanol (5 ml), and analytical grade acetone (25 ml) was added. The mixture was stirred at 0° C. for 30 min and a pale precipitate precipitated out. This was filtered out, washed with diethyl ether and dried under a high vacuum to obtain the desired product. Yield: 0.55 g (90%)

reactant | tert-Butyl 7-(pyridin-4-yl)-2,7-diazaspiro[4.4]nonane-2-carboxylate | 2.208 mmol, 1 eq | N1=CC=C(C=C1)N1CC2(CCN(C2)C(=O)OC(C)(C)C)CC1 | C17H25N3O2
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | 1.25 M, 6 eq | CO | CH4O
product | 2-(Pyridin-4-yl)-2,7-diazaspiro[4.4]nonane dihydrochloride | Cl.Cl.N1=CC=C(C=C1)N1CC2(CC1)CNCC2 | InChI=1S/C12H17N3.2ClH/c1-5-13-6-2-11(1)15-8-4-12(10-15)3-7-14-9-12;;/h1-2,5-6,14H,3-4,7-10H2;2*1H
